US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (35 mg, 0.15 mmol) was coupled to 4-fluoro-3-(3-cyanopyridin-2-yl)phenylboronic acid (54 mg, 0.22 mmol) as described in Example 7 part g), affording 2-[2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl]nicotinonitrile (42 mg, 71%). δH (360 MHz, CDCl3) 7.44-7.57 (2H, m), 7.62-7.70 (2H, m), 7.75 (1H, dd, J 2.5 and 6.7), 7.87 (1H, d, J 8.8), 8.17 (1H, dd, J 1.8 and 7.7), 8.62 (1H, d, J 8.4), 8.95 (1H, dd, J 1.6 and 4.7), 9.29 (1H, d, J 4.6). m/z (ES+) 395 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.15 mmol, 35 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-fluoro-3-(3-cyanopyridin-2-yl)phenylboronic acid | 0.22 mmol, 54 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=CC=C1C#N | C12H8BFN2O2
product | 2-[2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl]nicotinonitrile | 42 mg, 71% | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)C1=C(C#N)C=CC=N1 | C21H10F4N4
